US06787561B1
2-(5-Hydroxypentylthio)benzimidazole
1.5 g of 2-mercaptobenzimidazole and 1.7 g of 5-bromopentanol were refluxed for 5 hours in an acetonitrile solvent containing 1.2 g of triethylamine. The reaction mixture was cooled, then added with water and extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane) to obtain 1.77 g of the title compound (yield: 75%).

reactant | 2-mercaptobenzimidazole | 1.5 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 5-bromopentanol | 1.7 g | BrCCCCCO | C5H11BrO
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(5-Hydroxypentylthio)benzimidazole | 1.77 g, yield: 75% | OCCCCCSC=1NC2=C(N1)C=CC=C2 | C12H16N2OS
